*inverter 

.include ./t14y_tsmc_025_level3.txt

*netlist
m1 vout vin 0 0 cmosn l=0.5u w=2.5u
rl vdd vout 15k
cl vout vt 0.5u

v_in vin 0 PULSE(0 3.3 0 0.1p 0.1p 0.5m 1m)
*power sources

v_dd vdd 0 3.3
v_t vt 0 0
*analysis
 
.control

tran 10n 2m
setplot tran1
plot v_dd#branch v_t#branch


.endc 
 
