*inverter 

.include ./t14y_tsmc_025_level3.txt

*netlist
m1 vout vin 0 0 cmosn l=0.5u w=1.5u
rl vdd vout 33k
cl vout 0 1u

*power sources

v_dd vdd 0 3.3
v_in vin 0 3.3


.control
dc v_in 0 4 0.1
setplot dc1
plot vout
let slope = deriv(vout)

meas dc vol find v(vout) when v(vin)=3.3
meas dc vil find v(vin) when slope=-1 cross=1
meas dc vih find v(vin) when slope =-1 cross =2
meas dc vm find vout when vout=vin

.endc